US05849735
5-(4-(4-Butyloxy)benzoyl-6,11-dihydro-5H-dibenz[b,e]azepine
To a solution of 6,11-dihydro-5H-dihydro-5H-dibenz[b,e]azepine (0.12 g, 0.6 mmol) in methylene chloride (2 ml) is added triethylamine (0.12 g, 1.2 mmol), followed by 4-butoxybenzoyl chloride ((0.15 g, 0.72 mmol). The resulting mixture is stirred at room temperature for 2 hours, and then treated with 4 ml of 1N NaOH. The mixture is extracted with ethyl acetate (10 ml), and the extract is washed with 1N sodium hydroxide and brine (5 ml), dried over anhydrous sodium sulfate, and filtered through hydrous magnesium silicate. The filtrate is evaporated, and the crude material is triturated with isoctane to give 0.24 g of white solid; Mass spectrum (CI), 372(MH+)

reactant | triethylamine | 1.2 mmol, 0.12 g | C(C)N(CC)CC | C6H15N
reactant | 4-butoxybenzoyl chloride | C(CCC)OC1=CC=C(C(=O)Cl)C=C1 | C11H13ClO2
reactant | NaOH | 1N, 4 ml | [OH-].[Na+]
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-Butyloxy)benzoyl-6,11-dihydro-5H-dibenz[b,e]azepine | 0.24 g | CCCCOC1=CC=C(C(=O)C2=CC=CC=3NCC4=C(CC32)C=CC=C4)C=C1 | C25H25NO2
